US07166599B2
a) 2-methylsulphenyl-4-methylamino-5-chloro-pyrimidine
Prepared from 2-methylsulphenyl-4,5-dichloro-pyrimidine by reacting with methylamine in ethanol at 90° C., melting point: 241° C., Rf value: 0.59 (silica gel; cyclohexane/ethyl acetate=2:1)

reactant | 2-methylsulphenyl-4,5-dichloro-pyrimidine | CSC1=NC=C(C(=N1)Cl)Cl | C5H4Cl2N2S
reactant | methylamine | CN | CH5N
reactant | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
solvent | ethanol | C(C)O | C2H6O
product | 2-methylsulphenyl-4-methylamino-5-chloro-pyrimidine | CSC1=NC=C(C(=N1)NC)Cl | C6H8ClN3S
